US07858632B2
To a solution of 4-bromo-1-chloro-2-methoxy-benzene (1.45 g, 6.55 mmol) in dry tetrahydrofuran (10 ml), was added {1,3-bis (diphenylphosphino)-propane} dichloronickel (II) and cyclopropylmagnesium bromide (46 ml, 0.5 M in tetrahydrofuran, 23 mmols) at room temperature. The solution was stirred at room temperature for 2 hours, and then heated at 65° C. for 48 hours. Aqueous hydrochloric acid solution (1 N, 20 mL) was added, and the mixture was then cooled to room temperature and stirred for 30 minutes. The reaction mixture was partitioned between ethyl acetate and water. The combined organic phase was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (2% ethyl acetate in hexane) to yield 1-chloro-4-cyclopropyl-2-methoxy-benzene as yellow oily residue (0.81 g, 67%).

reactant | 4-bromo-1-chloro-2-methoxy-benzene | 6.55 mmol, 1.45 g | BrC1=CC(=C(C=C1)Cl)OC | C7H6BrClO
reactant | 1,3-bis (diphenylphosphino)-propane | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | cyclopropylmagnesium bromide | 23 mmols, 0.5 M, 46 ml | C1(CC1)[Mg]Br
reactant | hydrochloric acid | 1 N, 20 mL | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | dichloronickel (II) | Cl[Ni]Cl
product | 1-chloro-4-cyclopropyl-2-methoxy-benzene | ClC1=C(C=C(C=C1)C1CC1)OC | C10H11ClO
